US07342119B2
A process disclosed in U.S. patent application Ser. No. 10/302,636 for making 4-{3-[1-benzhydryl-5-chloro-2-(2-{[3,4-dichlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]propyl}benzoic acid may be summarized as follows: methyl-4-iodobenzoate is reacted with allyl alcohol to provide 4-(3-Oxo-propyl)-benzoic acid methyl ester, which is then reacted with 5-chloro-2-methylindole to yield 4-[3-(5-chloro-2-methylindol-3-yl)propyl]benzoic acid methyl ester; this product is reacted with benzhydryl bromide to produce 4-[3-(1-benzhydryl-5-chloro-2-methylindol-3-yl)propyl]benzoic acid methyl ester, which is then reacted with benzoyl peroxide to produce the 2-formyl indole; the 2 formyl indole is then reacted with nitromethane followed by Zn(Hg)/HCl to form the 2-(2-aminoethyl) indole; this amine is then reacted with [(3,4-dichlorophenyl)-methyl]sulfonyl chloride to produce 4-{3-[1-benzhydryl-5-chloro-2-(2-{[3,4-dichlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]propyl}benzoic acid methyl ester, which is then hydrolyzed to form 4-{3-[1-benzhydryl-5-chloro-2-(2-{[3,4-dichlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]propyl}benzoic acid. In this process, chromatography is used to separate some of the compounds made in the aforesaid reactions. It would be desirable to have a process for making the product that does not require the use of chromatography.

reactant | formyl indole | C(=O)C=1NC2=CC=CC=C2C1 | C9H7NO
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-(2-aminoethyl) indole | NCCC=1NC2=CC=CC=C2C1 | C10H12N2
